US05258529
19.5 Grams of 2-chloroallylphenylcarbinol were dissolved in 100.0 g of 1,3-diaminopropane, and 9.2 g of sodium methylate were added. The mixture was allowed to react at 30° C. for 16 hours. Then, the reaction mixture was neutralized with concentrated hydrochloric acid, and insolubles were filtered off. The filtrate was concentrated under reduced pressure, and the resultant oily substance was purified by silica gel column chromatography to give 12.6 g of phenylpropargylcarbinol, nD20 =1.546, FI-MS m/e 146(M+), propargyl compound/ allene compound=93.0/7.0.

reactant | 2-chloroallylphenylcarbinol | ClC(CC(O)C1=CC=CC=C1)=C | C10H11ClO
reactant | sodium methylate | 9.2 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,3-diaminopropane | 100.0 g | NCCCN | C3H10N2
product | phenylpropargylcarbinol | 12.6 g | C1(=CC=CC=C1)C(O)CC#C | C10H10O
